US06432964B1
a) Methyl 4-bromo-3-(dimethylaminomethylene)amino-2-thenoate
A solution of methyl 3-amino-4-bromo-2-thenoic acid (for preparation see J. Gen. Chem. USSR, (1964), 34, 961) (5 g) and N,N-dimethylformamide dimethyl acetal (5 g) in toluene (30 ml) were heated under reflux for 8 hours. On cooling the solvent was removed and the residue purified by silica gel chromatography eluting with ethyl acetate: light petroleum (b.p. 60-80° C.) (1:3) to give the title compound.

reactant | methyl 3-amino-4-bromo-2-thenoic acid | 5 g | CC1=C(C(=C(S1)C(=O)O)N)Br | C6H6BrNO2S
reactant | N,N-dimethylformamide dimethyl acetal | 5 g | COC(N(C)C)OC | C5H13NO2
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-bromo-3-(dimethylaminomethylene)amino-2-thenoate | BrC=1C(=C(SC1)C(=O)OC)N=CN(C)C | C9H11BrN2O2S
